US04368069
2-(1-Methylethenyl)benzenesulfonyl Chloride
A mixture of potassium 2-(1-methylethenyl)benzenesulfonate (7.8 g, 0.33 mmol) and 30 ml of thionyl chloride was contacted with 1.5 ml of N,N-dimethylformamide at 0°. The mixture was allowed to warm to room temperature over 45 minutes then evaporated in vacuo. Water and ether were added and the aqueous phase extracted with several portions of ether. The combined ether layers were washed with saturated sodium chloride solution, dried and evaporated under reduced pressure to yield the title compound as an oil.

reactant | potassium 2-(1-methylethenyl)benzenesulfonate | 0.33 mmol, 7.8 g | CC(=C)C1=C(C=CC=C1)S(=O)(=O)[O-].[K+]
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 2-(1-Methylethenyl)benzenesulfonyl Chloride | CC(=C)C1=C(C=CC=C1)S(=O)(=O)Cl | C9H9ClO2S
